US07482341B2
4-Chloro-N-[6-(4-fluoro-benzyloxymethyl)-pyridin-2-yl]-2,5-dimethyl-benzenesulfonamide
This material was prepared in analogy to example 1 from 6-(4-fluoro-benzyloxymethyl)-pyridin-2-ylamine (0.058 g) and 4-chloro-2,5-dimethyl-benzenesulfonyl chloride (0.066 g) as a light yellow gum (0.089 g). MS (ESI−): 433.2. ([M−H]−)

reactant | 6-(4-fluoro-benzyloxymethyl)-pyridin-2-ylamine | 0.058 g | FC1=CC=C(COCC2=CC=CC(=N2)N)C=C1 | C13H13FN2O
reactant | 4-chloro-2,5-dimethyl-benzenesulfonyl chloride | 0.066 g | ClC1=CC(=C(C=C1C)S(=O)(=O)Cl)C | C8H8Cl2O2S
product | 4-Chloro-N-[6-(4-fluoro-benzyloxymethyl)-pyridin-2-yl]-2,5-dimethyl-benzenesulfonamide | ClC1=CC(=C(C=C1C)S(=O)(=O)NC1=NC(=CC=C1)COCC1=CC=C(C=C1)F)C | C21H20ClFN2O3S
